US03947488
2-Benzoyloxypyridine
Other products prepared by this procedure are 2-(3,5-dinitrobenzoyloxy)pyridine (88%), 2-mesitoyloxypyridine (86%), 2-pivaloyloxypyridine (93%), and 2-p-anisoyloxypyridine (100%).

reactant | 2-(3,5-dinitrobenzoyloxy)pyridine | [N+](=O)([O-])C=1C=C(C(=O)OC2=NC=CC=C2)C=C(C1)[N+](=O)[O-] | C12H7N3O6
reactant | 2-mesitoyloxypyridine | C1(=C(C(=CC(=C1)C)C)C(=O)OC1=NC=CC=C1)C | C15H15NO2
reactant | 2-pivaloyloxypyridine | C(C(C)(C)C)(=O)OC1=NC=CC=C1 | C10H13NO2
reactant | 2-p-anisoyloxypyridine | C(C1=CC=C(C=C1)OC)(=O)OC1=NC=CC=C1 | C13H11NO3
product | 2-Benzoyloxypyridine | C(C1=CC=CC=C1)(=O)OC1=NC=CC=C1 | C12H9NO2
